US05607956
1-(5-Thiazolyl)-1-(3-thienyl)ethanol
n-Butyllithium (2.5M solution in hexane, 5.6 ml) in diethylether (25 ml) was stirred at -70° C. under a nitrogen atmosphere and 2-trimethylsilylthiazole (2 g) in diethylether (25 ml) was added dropwise. After 30 minutes 3-acetylthiophene (1.93 g) in diethylether (25 ml) was added dropwise. After a further 45 minutes the mixture was allowed to warm to room temperature and then left to stir for a further 1 hour. Saturated aqueous sodium hydrogen carbonate was added and the organic layer was separated. The aqueous layer was extracted with diethylether. The organic layers were combined, washed, dried and evaporated and the residue was purified by flash chromatography to give the title compound as an oil.

reactant | n-Butyllithium | 2.5M, 5.6 ml | C(CCC)[Li]
reactant | 2-trimethylsilylthiazole | 2 g | C[Si](C=1SC=CN1)(C)C | C6H11NSSi
reactant | 3-acetylthiophene | 1.93 g | C(C)(=O)C1=CSC=C1 | C6H6OS
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | diethylether | 25 ml | C(C)OCC | C4H10O
solvent | diethylether | 25 ml | C(C)OCC | C4H10O
solvent | diethylether | 25 ml | C(C)OCC | C4H10O
product | 1-(5-Thiazolyl)-1-(3-thienyl)ethanol | S1C=NC=C1C(C)(O)C1=CSC=C1 | C9H9NOS2
